US07994187B2
Sodium (3.0 equiv., 735 mmol, 16.9 g) was dissolved in dry methanol (240 ml). DMF (160 ml), CuI (0.15 equiv., 37 mmol, 7.0 g) and N-protected 2-(2,5-dimethyl-1H-pyrrol-1-yl)-5-iodo-pyridine (I17) (1.0 equiv., 245 mmol, 73.0 g) were added. The reaction mixture was heated to 80° C. for 3 h. After the mixture had been allowed to cool to room temperature, isopropylether and an aqueous NH4Cl solution (5%) were added, the mixture was stirred overnight. The solids were filtered off over Celite and the filtrate was extracted several times with dichloromethane. The combined organic phases were washed with a 10% aqueous NH4OH solution, dried with MgSO4 and concentrated in vacuo. After drying in high vacuum, 2-(2,5-dimethyl-1H-pyrrol-1-yl)-5-methoxy-pyridine (I18) (50 g, yield=100%) was pure enough to be used as such in the next step. 1H NMR (δ, CDCl3): 2.08 (6H, s), 3.91 (3H, s), 5.87 (2H, s), 7.15 (1H, d, J=8.7 Hz), 7.32 (1H, dd, J=8.7, 3.0 Hz), 8.27 (1H, d, J=3.0 Hz)

reactant | Sodium | 735 mmol, 16.9 g, 3.0 equiv. | [Na] | Na
reactant | 2-(2,5-dimethyl-1H-pyrrol-1-yl)-5-iodo-pyridine | 245 mmol, 73.0 g, 1.0 equiv. | CC=1N(C(=CC1)C)C1=NC=C(C=C1)I | C11H11IN2
reactant | isopropylether | C(C)(C)OC(C)C | C6H14O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | methanol | 240 ml | CO | CH4O
catalyst | CuI | 37 mmol, 7.0 g, 0.15 equiv. | [Cu]I
solvent | DMF | 160 ml | CN(C)C=O | C3H7NO
product | 2-(2,5-dimethyl-1H-pyrrol-1-yl)-5-methoxy-pyridine | 50 g, yield=100% | CC=1N(C(=CC1)C)C1=NC=C(C=C1)OC | C12H14N2O
